US08222416B2
To a solution of [1-benzenesulfonyl-2-(2-tetrahydro-pyran-4-yl-acetyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-carbamic acid tert-butyl ester (1.0 g, 2.0 mmol) in tetrahydrofuran (40 mL) at −78° C. was added lithium bis(trimethylsilyl)amide in tetrahydrofuran (1 M, 5.0 mL, 5.0 mmol) dropwise. After stirring at −78° C. for 0.5 h, a solution of p-toluenesulfonic anhydride (980 mg, 3.0 mmol) in tetrahydrofuran (10 mL) was added dropwise. The resulting solution was stirred at −78° C. for an additional 1 h. The reaction was quenched with water, extracted with ethyl acetate (100 mL), washed with brine, dried over anhydrous sodium sulfate and then concentrated in vacuo. Purification by flash column chromatography (silica gel from QingDao, 200-300 mesh, 50% ethyl acetate/hexanes) afforded toluene-4-sulfonic acid 1-(1-benzenesulfonyl-5-tert-butoxycarbonylamino-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-(tetrahydro-pyran-4-yl)-vinyl ester (0.8 g, 61%) as a light yellow solid: LC/MS m/e calcd for C32H35N3O8S2 [M+H]+ 654.78, observed 654.4.

reactant | [1-benzenesulfonyl-2-(2-tetrahydro-pyran-4-yl-acetyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-carbamic acid tert-butyl ester | 2.0 mmol, 1.0 g | C(C)(C)(C)OC(NC=1C=C2C(=NC1)N(C(=C2)C(CC2CCOCC2)=O)S(=O)(=O)C2=CC=CC=C2)=O | C25H29N3O6S
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | p-toluenesulfonic anhydride | 3.0 mmol, 980 mg | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.0 mmol, 1 M, 5.0 mL | O1CCCC1 | C4H8O
product | toluene-4-sulfonic acid 1-(1-benzenesulfonyl-5-tert-butoxycarbonylamino-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-(tetrahydro-pyran-4-yl)-vinyl ester | 0.8 g, 61% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)NC(=O)OC(C)(C)C)C(=CC2CCOCC2)OS(=O)(=O)C2=CC=C(C=C2)C | C32H35N3O8S2
